US04946951
Preparation of 5'-O-benzyl-2'-deoxy-5-fluoro-3'-O-glycyluridine hydrochloride
To a solution of 1.00 g of 5'-O-benzyl-2'-deoxy-5-fluorouridine in 30 ml of anhydrous pyridine were added 0.78 g of N-(t-butoxycarbonyl)glycine and 1.80 g of 2,4,6-triisopropylbenzenesulfonyl chloride, and the mixture was subjected to reaction at room temperature overnight.

reactant | 5'-O-benzyl-2'-deoxy-5-fluorouridine | 1.00 g | C(C1=CC=CC=C1)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)F)O | C16H17FN2O5
reactant | N-(t-butoxycarbonyl)glycine | 0.78 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | 2,4,6-triisopropylbenzenesulfonyl chloride | 1.80 g | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)Cl | C15H23ClO2S
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 5'-O-benzyl-2'-deoxy-5-fluoro-3'-O-glycyluridine hydrochloride | Cl.C(C1=CC=CC=C1)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)F)OC(CN)=O | InChI=1S/C18H20FN3O6.ClH/c19-12-8-22(18(25)21-17(12)24)15-6-13(28-16(23)7-20)14(27-15)10-26-9-11-4-2-1-3-5-11;/h1-5,8,13-15H,6-7,9-10,20H2,(H,21,24,25);1H/t13-,14+,15+;/m0./s1
